US09326987B2
1-[({5-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)amino]-3-(4-morpholinyl)-2-propanol
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (100 mg, 0.184 mmol) in acetonitrile (2 ml) was treated with 1-amino-3-(4-morpholinyl)-2-propanol (147 mg, 0.918 mmol, available from Enamine Ltd) and heated in a microwave at 100° C. for 30 mins. The solution was pipetted off the solid, then the solid was dissolved in DMSO (ml) and loaded onto a 5 g SCX cartridge. Methanol was eluted, then 2M ammonia in ethanol. Basic fractions were blown to dryness. The fully-protected intermediate was treated with isopropanol (1.000 ml) followed by 2M aqueous sodium hydroxide (1.001 ml, 2.002 mmol) and stirred for 20 h at 20° C. The solution was neutralised by addition of 2M hydrochloric acid then blown to dryness to give a brown solid. The material was purified MDAP (Method E). The appropriate fraction was blown to dryness to give the title compound as a brown film (27 mg).

reactant | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.184 mmol, 100 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | 1-amino-3-(4-morpholinyl)-2-propanol | 0.918 mmol, 147 mg | NCC(CN1CCOCC1)O | C7H16N2O2
reactant | sodium hydroxide | 2.002 mmol, 2M, 1.001 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[({5-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)amino]-3-(4-morpholinyl)-2-propanol | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C1=NN=C(O1)CNCC(CN1CCOCC1)O | C25H27N7O3
